US07968570B2
A mixture of 2-bromomethyl-6-iodo-benzoic acid methyl ester (0.106 g, 0.3 mmol), 3-(4-phenoxy-phenyl)-propylamine (0.136 g, 0.6 mmol), and K2CO3 (0.110 g, 0.8 mmol) in toluene (5 mL) was heated with stirring at 100° C. for 2 h. Workup and silica gel column chromatography using 30% ethyl acetate in hexane afforded 7-iodo-2-[3-(4-phenoxy-phenyl)-propyl]-2,3-dihydro-isoindol-1-one (0.025 g, 18%). 1H NMR (300 MHz, CDCl3): δ (ppm) 2.01 (m, 2H), 2.68 (t, 2H), 3.67 (t, 2H), 4.28 (s, 2H), 6.86-7.42 (m, 11H), 7.88 (d, 1H).

reactant | 2-bromomethyl-6-iodo-benzoic acid methyl ester | 0.3 mmol, 0.106 g | COC(C1=C(C=CC=C1I)CBr)=O | C9H8BrIO2
reactant | 3-(4-phenoxy-phenyl)-propylamine | 0.6 mmol, 0.136 g | O(C1=CC=CC=C1)C1=CC=C(C=C1)CCCN | C15H17NO
reactant | K2CO3 | 0.8 mmol, 0.110 g | C(=O)([O-])[O-].[K+].[K+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
solvent | hexane | CCCCCC | C6H14
product | 7-iodo-2-[3-(4-phenoxy-phenyl)-propyl]-2,3-dihydro-isoindol-1-one | 0.025 g, 18% | IC=1C=CC=C2CN(C(C12)=O)CCCC1=CC=C(C=C1)OC1=CC=CC=C1 | C23H20INO2
